* Z:\media\data\CODES\LTSpice_projects\IL300_F-107\IL300_F-107_12V+npn_02-04-13.asc
R4 A2 0 33k
V5 12V 0 PWL(1n 12 14m 7 18m 14 23m 12) Rser=1m
V6 V_Sensor 0 PULSE(0 5 0 10m 10m 10n 0 100) AC 1
R5 ctrl1 0 33k
R6 N003 N002 100
V7 N001 0 5V Rser=10m
XU5 A2 imp2 N001 0 imp2 OPA2340
R8 N011 V_Sensor 15.35k
R9 0 N011 33k
R10 add N004 100k
R11 N004 0 100k
R12 N009 imp1 100k
R13 N009 N012 100k
V8 N012 0 PULSE(0 1.2 0 100u) Rser=1m
XU9 N010 N008 N001 0 diff OPA2340
R15 N008 diff 12k
R16 N007 N008 10k
R17 imp2 N010 10k
R18 N010 0 12k
V9 N007 0 1.2 Rser=10m
XU10 N006 0 ctrl1 12V A2 N001 IL300 IL300
R20 diff 0 10k
XU1 add ctrl1 12V 0 N002 LM258_ON
V1 5V 0 5V
C1 N002 ctrl1 100p
XU2 N009 N004 12V 0 add LM258_ON
XU3 N011 imp1 12V 0 imp1 LM258_ON
R1 VADC diff 1k
C2 VADC 0 10n
Q1 5V N003 N005 0 BC547B
R2 N005 N006 100
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC_orig\LTspiceIV_4.18\lib\cmp\standard.bjt
.SUBCKT MCP6401 1 2 3 4 5
*               | | | | |
*               | | | | Output
*               | | | Negative Supply
*               | | Positive Supply
*               | Inverting Input
*               Non-inverting Input
*
********************************************************************************
* Software License Agreement                                                   *
*                                                                              *
* The software supplied herewith by Microchip Technology Incorporated (the     *
* 'Company') is intended and supplied to you, the Company's customer, for use  *
* soley and exclusively on Microchip products.                                 *
*                                                                              *
* The software is owned by the Company and/or its supplier, and is protected   *
* under applicable copyright laws. All rights are reserved. Any use in         *
* violation of the foregoing restrictions may subject the user to criminal     *
* sanctions under applicable laws, as well as to civil liability for the       *
* breach of the terms and conditions of this license.                          *
*                                                                              *
* THIS SOFTWARE IS PROVIDED IN AN 'AS IS' CONDITION. NO WARRANTIES, WHETHER    *
* EXPRESS, IMPLIED OR STATUTORY, INCLUDING, BUT NOT LIMITED TO, IMPLIED        *
* WARRANTIES OF MERCHANTABILITY AND FITNESS FOR A PARTICULAR PURPOSE APPLY TO  *
* THIS SOFTWARE. THE COMPANY SHALL NOT, IN ANY CIRCUMSTANCES, BE LIABLE FOR    *
* SPECIAL, INCIDENTAL OR CONSEQUENTIAL DAMAGES, FOR ANY REASON WHATSOEVER.     *
********************************************************************************
*
* The following op-amps are covered by this model:
*      MCP6401, MCP6401R, MCP6401U, MCP6402, MCP6404
*
* Date of model creation: 10/10/2010
* Level of Model Creator: 3.0
*
* Revision History:
*      REV A: 10-Oct-10
*       
* Recommendations:
*      Use PSPICE (or SPICE 2G6; other simulators may require translation)
*      For a quick, effective design, use a combination of: data sheet
*            specs, bench testing, and simulations with this macromodel
*      For high impedance circuits, set GMIN=100F in the .OPTIONS statement
*
* Supported:
*      Typical performance for temperature range (-40 to 125) degrees Celsius
*      DC, AC, Transient, and Noise analyses.
*      Most specs, including: offsets, DC PSRR, DC CMRR, input impedance,
*            open loop gain, voltage ranges, supply current, ... , etc.
*      Temperature effects for Ibias, Iquiescent, Iout short circuit 
*            current, Vsat on both rails, Slew Rate vs. Temp and P.S.
*
* Not Supported:
*      Some Variation in specs vs. Power Supply Voltage
*      Vos distribution, Ib distribution for Monte Carlo
*      Distortion (detailed non-linear behavior)
*      Some Temperature analysis
*      Process variation
*      Behavior outside normal operating region
*
*
* Input Stage
V10  3 10 -400M
R10 10 11 1.00MEG
R11 10 12 1.00MEG
G10 10 11 10 11 100U
G11 10 12 10 12 100U
C11 11 12 397E-15
C12  1  0 6P
E12 71 14 POLY(6) 20 0 21 0 22 0 23 0 26 0 27 0   4.5M 11.7 11.7 3.6 3.6 1 1
G12 1 0 62 0 1m
G13 1 2 63 0 1u
M12 11 14 15 15 NMI 
M14 12 2 15 15 NMI 
G14 2 0 62 0 1m
C14  2  0 6P
C13 1 2 3P
I15 15 4 20.0U
V16 16 4 -200M
GD16 16 1 TABLE {V(16,1)} ((-100,-1p)(0,0)(1m,1u)(2m,1m)) 
V13 3 13 -200M
GD13 2 13 TABLE {V(2,13)} ((-100,-1p)(0,0)(1m,1u)(2m,1m)) 
R71  1  0 20.0E12
R72  2  0 20.0E12
R73  1  2 20.0E12
*
* Noise, PSRR, and CMRR
I20 21 20 423U
D20 20  0 DN1
D21  0 21 DN1
I22 22 23 1N
R22 22 0  1k
R23  0 23 1k
G26  0 26 POLY(2) 3 0 4 0   0.00 -79.4U -100U
R26 26  0 1
G27  0 27 POLY(2) 1 0 2 0  -847U 40U 40U
R27 27  0 1
*
* Open Loop Gain, Slew Rate
G30  0 30 12 11 1
R30 30  0 1.00K
G31 0 31 3 4 3.9
I31 0 31 DC 51.5
R31 31  0 1 TC=3.03M,2.40U
GD31 30 0 TABLE {V(30,31)} ((-100,-1n)(0,0)(1m,0.1)(2m,2))
CD31 31 30 2p
G32 32 0 3 4 2.2
I32 32 0 DC 93
R32 32  0 1 TC=2.22M,-2.72U
GD32 0 30 TABLE {V(30,32)} ((-2m,2)(-1m,0.1)(0,0)(100,-1n))
CD32 32 30 2p
G33  0 33 30 0 1m
R33  33 0 1K
G34  0 34 33 0 0.325
R34  34 0 1K
C34  34 0 50.3U
G37  0 37 34 0 1m
R37  37 0 1K
C37  37 0 63.6P
G38  0 38 37 0 1m
R38  39 0 1K
L38  38 39 79.5U
E38  35 0 38 0 1
G35 33 0 TABLE {V(35,3)} ((-1,-1n)(0,0)(90,1n))(91,1))
G36 33 0 TABLE {V(35,4)} ((-91,-1)((-90,-1n)(0,0)(1,1n))
*
* Output Stage
R80 50 0 100MEG
G50 0 50 57 96 2
R58 57  96 0.50
R57 57  0 1.2K
C58  5  0 2.00P
G57  0 57 POLY(3) 3 0 4 0 35 0 0 312U 416U 833U
GD55 55 57 TABLE {V(55,57)} ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
CD55 55 57 2p
CD56 57 56 2p
GD56 57 56 TABLE {V(57,56)} ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
E55 55  0 POLY(2) 3 0 51 0 2M 1 -54M 
E56 56  0 POLY(2) 4 0 52 0 1.2M 1 -50M 
R51 51 0 1k
R52 52 0 1k
GD51 50 51 TABLE {V(50,51)} ((-10,-1n)(0,0)(1m,1m)(2m,1))
GD52 50 52 TABLE {V(50,52)}  ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
CD51 50 52 2p
CD52 50 51 2p
G53  3  0 POLY(1) 51 0  -20.0U 1M
G54  0  4 POLY(1) 52 0  -20.0U -1M
*
* Current Limit
G99 96 5 99 0 1
R98 0 98 1 TC=-3.71M,8.17U
G97 0 98 TABLE { V(96,5) } ((-12.0,-7.00M)(-1.00M,-6.93M)(0,0)(1.00M,6.93M)(12.0,7.00M))
E97 99 0 VALUE { V(98)*((V(3)-V(4))*428M + 142M)}
D98 4 5 DESD
D99 5 3 DESD
*
* Temperature / Voltage Sensitive IQuiscent
R61 0 61 1 TC=2.24M,3.12U
G61 3 4 61 0 1
G60 0 61 TABLE {V(3,4)} 
+ ((0,0)(800M,440N)(850M,3.00U)(1.3,40.0U)
+ (1.4,42.0U)(5.00,46.0U)(7.00,50.0U))
*
* Temperature Sensitive offset voltage
I73 0 70 DC 1uA
R74 0 70 1 TC=2.00
E75 1 71 70 0 1 
*
* Temp Sensistive IBias
I62 0 62 DC 1uA
R62 0 62 REXP  1.1m
*
* Temp Sensistive Offset IBias
I63 0 63 DC 1uA
R63 0 63 1.1 TC=30.4M,454U
*
* Models
.MODEL NMI NMOS(L=2.00U W=50.0U KP=20.0U LEVEL=1 )
.MODEL DESD  D   N=1 IS=1.00E-15
.MODEL DN1 D   IS=1P KF=146E-18 AF=1
.MODEL REXP  RES TCE= 6.6
.ENDS MCP6401
*****
* (c) ON SEMICONDUCTOR
* Models developed and under copyright by:
* ON SEMICONDUCTOR 
 
* ============================================================
* | Legal Notice: This material is intended for free  
* | software support. The file may be copied and distributed. 
* | However,reselling the material is illegal.
* ============================================================
 
* ============================================================      
* | LM258, LM358, LM358A, LM2904, LM2904A, LM2904V, NCV2904
* |                  OP-AMP MACRO-MODEL
* |            Designed in pSpice Version 9.2
* |
* | The content of this model is subject to change
* | without notice and may not be modified or altered
* | without permission from ON Semiconductor. This model
* | has been carefully checked and is believed to be
* | accurate, however ON Semiconductor does not assume 
* | liability for the use of this model or the results 
* | obtained from using it.
* ============================================================
 
* ============================================================
* Features: - True Differential Input Stage
*           - Single Supply Operation: 3.0 V to 32 V
*           - Low Input Bias Currents
*           - Internally Compensated
*           - Common Mode Range Extends to Negative Supply
*           - Single and Split Supply Operation
* ============================================================
 
* $Author: Vallabh Chilakapati $
* $Date: 6 Aug 2006 $
 
* NOTE: - Noise is not modeled.
*       - Temperature is not modeled.
*       - PSR is not modeled.
*       - Model is for single device only.  Simulated supply current is 1/2 of
*         total package current.
 
* Connections:
*                   Non-Inverting Input
*                   |   Inverting Input
*                   |   |   +ve Voltage Supply
*                   |   |  |   -ve Voltage Supply
*                   |   |  |   |   Output
*                   |   |  |   |   |
.SUBCKT LM258_ON    1   2  11  12  24
 
***** Input Stage *****
Q_Q1            4 5 6           QPNP1    
Q_Q2            7 8 9           QPNP2
I_I1            111 10          DC 1m
R_RC1           4 12            95.49 
R_RC2           7 12            95.49
R_RE1           10 6            43.79 
R_RE2           10 9            43.79
V_Vio           2 8             0Vdc
E_E4            1 5 16 14       1
E_EVcc          111 0 11 0      1
G_Vcc           0 11            poly(1)         11 0            0.556m 4.8u
 
***** Gain Stage & Frequency Response Stage *****
R_R3            13 12           1k  
R_R4            111 13          100k  
E_Eref          14 0 13 0       1
G_G1            14 15 7 4       0.01047
R_Rc            14 15           9.549Meg 
C_Cc            14 15           1.667n 
 
***** Output Stage *****
E_E1            22 14 15 14     1
V_F1            23 24           0
F_F1            11 0 V_F1       1
R_Rout          22 23           13
 
***** Common Mode Rejection *****
R_R1            3 1             1Meg
R_R2            2 3             1Meg
G_G2            14 16 3 14      5.6234n
R_Rcmr          17 16           10k
L_Lcmr          14 17           1.59H 
 
***** Output Voltage Limiting *****
D_D1            15 18           D10D1
D_D2            19 15           D10D1 
V_Voh           111 18          2.183
V_Vol           19 12           0.639
 
***** Output Current Limiting *****
D_D3            15 21           D10D1 
D_D4            20 15           D10D1 
V_V3            21 23           -0.207
V_V4            23 20           -0.467
 
.model QPNP1    PNP(Bf=10841.7)
.model QPNP2    PNP(Bf=11741.7)
.MODEL D10D1 D IS=6E-16 RS=1.000E-3 VJ=.75 BV=100E6
.ENDS
* OPA350 SPICE Macro-model              3/31/99, Rev. B   by Marek Lis
* Rev. A  12/18/98,  by Marek Lis
* REV. B  23 DEC 1998 NEIL ALBAUGH; REVISED CONNECTION NAMES TO MATCH SYMBOL
* Rev. C  3/31/99,  by Marek Lis: added voltage and current noise (1/f noise is NOT modeled.)
* REV. D  1 APR 1999 NEIL ALBAUGH; REVISED CONNECTION NAMES TO MATCH SYMBOL
*
*
*
*
*
* Copyright 1997 by Burr-Brown Corporation
*
*                non-inverting input
*                |  inverting input
*                |  |  positive supply
*                |  |  |   negative supply
*                |  |  |   |   output
*                |  |  |   |   |
.SUBCKT OPA350   +  -  V+  V-  OUT
* INPUT STAGE
*
i1 V+ 5 400u
m7 550 vswitch 5 5 pix l=2u w=25u m=26
m8 550 550 V- V- nix l=2u w=25u m=26
m9 553a 550 V- V- nix l=2u w=25u m=26
m9c 66 nvsat 553a V- nix l=2u w=25u m=26
Vpvsat V+ vswitch DC 1.8
Vnvsat nvsat V- DC 1.37
iin1 + 98 .5p
iin2 - 98 .5p
d3 5 V+ dx
d4 V- 66 dx
d5 - V+ dx
d6 + V+ dx
d7 V- - dx
d8 V- + dx
rinp 7 7a 500
rinn - 2a 500
m1 33 2a 66 V- nix l=2u w=25u m=13
m2 4 7a 66 V- nix l=2u w=25u m=13
m3 8 2a 5 5 pix l=2u w=25u m=13
m4 9 7a 5 5 pix l=2u w=25u m=13
eos 7 + poly(1) 25 98 0 0
ios - + 0p
r1 V+ 33x 4.833k
r2 V+ 4x 4.833k
r3 8x V- 4.833k
r4 9x V- 4.833k
vr1 33 33x DC 2
vr2 4 4x DC 2
vr3 8x 8 DC 2
vr4 9x 9 DC 2
i1a V+ V- 2464u
*
* GAIN STAGE
*
eref 98 0 poly(2) V+ 0 V- 0 0 0.5 0.5
g1 98 21 poly(2) 4 33 9 8 0 145u 145u
rg 21 98 2.3e6
cc 21 6c 10.6pF
rcc 6c OUT 2.4k
d1 21 22 dx
d2 23 21 dx
v1 V+ 22 1.37
v2 23 V- 1.37
*
* COMMON MODE GAIN STAGE
*
ecm 24 98 poly(2) + 98 - 98 0 0.5 0.5
r5 24 25 1e6
r6 25 98 10k
c1 24 25 0.75p
*
* OUTPUT STAGE
*
isy V+ V- 540.4u
gsy V+ V- poly(1) V+ V- -3.334e-4 6.667e-5
ep V+ 39 poly(1) 98 21 0.78925 1
en 38 V- poly(1) 21 98 0.78925 1
vh OUT 6h DC -2.4e-2
vl 6l OUT DC -2.4e-2 
m113 6h 39 V+ V+ pox l=1.5u w=1500u m=12
m114 6l 38 V- V- nox l=1.5u w=1500u m=12
c15 OUT 39 15p
c16 OUT 38 15p
.model dx d(rs=1 cjo=0.1p)
.model nix nmos(vto=0.75 kp=205.5u rd=1 rs=1 rg=1 rb=1 cgso=4e-9
+cgdo=4e-9 cgbo=16.667e-9 cbs=2.34e-13 cbd=2.34e-13)
.model nox nmos(vto=0.75 kp=195u rd=.5 rs=.5 rg=1 rb=1 cgso=66.667e-12
+cgdo=66.667e-12 cgbo=125e-9 cbs=2.34e-13 cbd=2.34e-13)
.model pix pmos(vto=-0.75 kp=205.5u rd=1 rs=1 rg=1 rb=1 cgso=4e-9
+cgdo=4e-9 cgbo=16.667e-9 cbs=2.34e-13 cbd=2.34e-13)
.model pox pmos(vto=-0.75 kp=195u rd=.5 rs=.5 rg=1 rb=1 cgso=66.667e-12
+cgdo=66.667e-12 cgbo=125e-9 cbs=2.34e-13 cbd=2.34e-13)
.ENDS OPA350
* OPA2340
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: OPA2340
* Date: 31MAY2011
* Model Type: ALL IN ONE
* Simulator: PSPICE
* Simulator Version: 16.0.0.p.001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS073B?SEPTEMBER 1997?REVISED NOVEMBER 2007
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
*
* THIS MODEL IS APPLICABLE TO OPA340, OPA2340, OPA4340
*                non-inverting input
*                |  inverting input
*                |  |  positive supply
*                |  |  |   negative supply
*                |  |  |   |   output
*                |  |  |   |   |
.SUBCKT OPA2340   +  -  V+  V-  OUT
* INPUT STAGE
*
i1 V+ 5 150u
m7 550 vswitch 5 5 pix l=6u w=25u m=4
m8 550 550 V- V- nix l=6u w=25u m=4
m9 553a 550 V- V- nix l=6u w=25u m=4
m9c 66 nvsat 553a V- nix l=6u w=25u m=4
Vpvsat V+ vswitch DC 1.3
Vnvsat nvsat V- DC 1.37
iin1 + 98 .2p
iin2 - 98 .2p
d3 5 V+ dx
d4 V- 66 dx
d5 - V+ dx
d6 + V+ dx
d7 V- - dx
d8 V- + dx
m1 33 - 66 V- nix l=6u w=25u
m2 4 7 66 V- nix l=6u w=25u
m3 8 - 5 5 pix l=6u w=25u
m4 9 7 5 5 pix l=6u w=25u
eos 7 + poly(1) 25 98 0 0
ios - + 0p
r1 V+ 33 4.833k
r2 V+ 4 4.833k
r3 8 V- 4.833k
r4 9 V- 4.833k
*
* GAIN STAGE
*
eref 98 0 poly(2) V+ 0 V- 0 0 0.5 0.5
g1 98 21 poly(2) 4 33 9 8 0 145u 145u
rg 21 98 18.078e6
cc 21 OUT 10.5p
d1 21 22 dx
d2 23 21 dx
v1 V+ 22 1.37
v2 23 V- 1.37
*
* COMMON MODE GAIN STAGE
*
ecm 24 98 poly(2) + 98 - 98 0 0.5 0.5
r5 24 25 1e6
r6 25 98 10k
c1 24 25 0.75p
*
* OUTPUT STAGE
*
isy V+ V- 450.4u
gsy V+ V- poly(1) V+ V- -3.334e-4 6.667e-5
ep V+ 39 poly(1) 98 21 0.78925 1
en 38 V- poly(1) 21 98 0.78925 1
vh OUT 6h DC 1e-2
vl 6l OUT DC 1e-2 
m113 6h 39 V+ V+ pox l=1.5u w=1500u
m114 6l 38 V- V- nox l=1.5u w=1500u
c15 OUT 39 50p
c16 OUT 38 50p
.model dx d(rs=1 cjo=0.1p)
.model nix nmos(vto=0.75 kp=205.5u rd=1 rs=1 rg=1 rb=1 cgso=4e-9
+cgdo=4e-9 cgbo=16.667e-9 cbs=2.34e-13 cbd=2.34e-13)
.model nox nmos(vto=0.75 kp=195u rd=.5 rs=.5 rg=1 rb=1 cgso=66.667e-12
+cgdo=66.667e-12 cgbo=125e-9 cbs=2.34e-13 cbd=2.34e-13)
.model pix pmos(vto=-0.75 kp=205.5u rd=1 rs=1 rg=1 rb=1 cgso=4e-9
+cgdo=4e-9 cgbo=16.667e-9 cbs=2.34e-13 cbd=2.34e-13)
.model pox pmos(vto=-0.75 kp=195u rd=.5 rs=.5 rg=1 rb=1 cgso=66.667e-12
+cgdo=66.667e-12 cgbo=125e-9 cbs=2.34e-13 cbd=2.34e-13)
.ENDS OPA2340
* PULSE(0 5 0 10m 10m 10n 0 100)
.tran 60m startup
.lib IL300.sub
.backanno
.end
